US06335367B1
Preparation of 2-(3-Hydroxyphenyl)cyclopropyl 1-Methylpropyl Ketone
To a 250 ml round bottom flask equipped with magnetic stirrer, nitrogen inlet, thermometer and addition funnel was charged 1.6 g (0.039 moles) of powdered sodium hydroxide, 8.7 g (0.039 moles) of trimethyl sulfoxonium iodide, and 50 mls of anhydrous DMSO. The mixture was then stirred at ambient temperature for 30 minutes. The mixture was then cooled to 15° C., and a solution of 1-(1-methylpropyl)-3-(3-hydroxyphenyl)-2-propene-1-one (4.0 g, 0.0196 moles) was added dropwise in 50 mls of DMSO. The reaction was stirred for 1 hour at 15° C., then allowed to warm to ambient temperature, and stirred for an additional 16 hours. The reaction mixture was the quenched with 100 mls of 0.1 N HCl, and extracted with 3×100 mls of ethyl ether. The combined ether extracts were washed successively with 2×100 mls of water, and 100 mls of saturated aqueous sodium chloride solution. The ether extract was then dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure with a rotary evaporator at 45 ° C. to afford 3.6 g of the title compound, 2-(3-hydroxyphenyl)cyclopropyl 1-methylpropyl ketone, as a thick amber oil in an 85% crude yield.

reactant | sodium hydroxide | 0.039 moles, 1.6 g | [OH-].[Na+]
reactant | trimethyl sulfoxonium iodide | 0.039 moles, 8.7 g | [I-].C[S+](=O)(C)C
reactant | 1-(1-methylpropyl)-3-(3-hydroxyphenyl)-2-propene-1-one | 0.0196 moles, 4.0 g | CC(CC)C(C=CC1=CC(=CC=C1)O)=O | C13H16O2
solvent | DMSO | 50 mls | CS(=O)C | C2H6OS
solvent | DMSO | 50 mls | CS(=O)C | C2H6OS
product | 2-(3-Hydroxyphenyl)cyclopropyl 1-Methylpropyl Ketone | 3.6 g | CC(CC)C(=O)C1C(C1)C1=CC(=CC=C1)O | C14H18O2
